US05760032
9-Chloro-4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine (0.5 g) was stirred with 2M hydrochloric acid (12.5 ml) at 60° C. for 2.5 hours. The reaction mixture was cooled to room temperature. Sodium hydrogencarbonate was added to make the reaction mixture alkaline. Chloroform and indole-2-carbonyl chloride (0.33 g) were added, and the mixture was stirred for 0.5 hour. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was concentrated under reduced pressure, and the obtained residue was crystallized from ethyl acetate to give 0.2 g of N-(3-chloro-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl) [1,2,4]triazol-5-ylmethyl)indole-2-carboxamide.

reactant | 9-Chloro-4-(2-chlorophenyl)-2-ethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine | 0.5 g | ClC1=NN=C2N1C1=C(C(=NC2)C2=C(C=CC=C2)Cl)C=C(S1)CC | C16H12Cl2N4S
reactant | hydrochloric acid | 2M, 12.5 ml | Cl | ClH
reactant | Sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | indole-2-carbonyl chloride | 0.33 g | N1C(=CC2=CC=CC=C12)C(=O)Cl | C9H6ClNO
solvent | Chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(3-chloro-4-(3-(2-chlorobenzoyl)-5-ethylthiophen-2-yl) [1,2,4]triazol-5-ylmethyl)indole-2-carboxamide | 0.2 g | ClC1=NN=C(N1C=1SC(=CC1C(C1=C(C=CC=C1)Cl)=O)CC)CNC(=O)C=1NC2=CC=CC=C2C1 | C25H19Cl2N5O2S
